US06479487B1
1-(2-(4-Morpholinyl)ethyl)-4-piperidone oxime is prepared from 1-(2-(4-morpholinyl)ethyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(2-(4-morpholinyl)ethyl)-4-piperidone | N1(CCOCC1)CCN1CCC(CC1)=O | C11H20N2O2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(2-(4-Morpholinyl)ethyl)-4-piperidone oxime | N1(CCOCC1)CCN1CCC(CC1)=NO | C11H21N3O2
